US04640703
A mixture of 85.9 g (0.78 mole) of hydroquinone, 1200 ml of acetonitrile and 53.9 g (0.39 mole) of potassium carbonate is heated to 60° C., then a solution of 115.8 g (0.60 mole) of 2,5-dichloro-3-nitropyridine in 500 ml of acetonitrile is added dropwise over 6 hours and the mixture is stirred for 36 hours. The solvent is removed by distillation and the residue is poured into a mixture of ice-water and hydrochloric acid. After extraction with methylene chloride, the combined organic phases are dried over magnesium sulfate, treated with activated carbon, filtered and concentrated. The residue is purified by crystallisation in a mixture of hexane and ethyl acetate, affording 99 g (62% of theory) of 4-(5-chloro-3-nitropyridin-2-yloxy)phenol with a melting point of 125°-126° C.

reactant | hydroquinone | 0.78 mole, 85.9 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 0.39 mole, 53.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dichloro-3-nitropyridine | 0.60 mole, 115.8 g | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1200 ml | C(C)#N | C2H3N
product | 4-(5-chloro-3-nitropyridin-2-yloxy)phenol | 99 g, 62% | ClC=1C=C(C(=NC1)OC1=CC=C(C=C1)O)[N+](=O)[O-] | C11H7ClN2O4
